US04695568
PREPARATION OF 2-(4-(4-FLUOROPHENACYL)-PIPERAZINYL)-6-METHYL-4-PHENYL-THIENO[2,3-d]PYRIMIDINE BY PROCESS (B)
In 6 ml of methylethylketone, 2.03 g of 6-methyl-4-phenyl-2-piperazinyl-thieno[2,3-d]pyrimidine, 1.25 g of 4-fluorophenacyl chloride and 0.73 g of triethylamine are reacted under reflux for 5 hours. After cooling, 70 ml of chloroform is added to the reaction mixture. The solution is washed twice with 100 ml of water and then saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After distilling off chloroform, crystallization from diethylether/methanol gives 2.68 g of the product which has a melting point of 141°-142° C.

reactant | 6-methyl-4-phenyl-2-piperazinyl-thieno[2,3-d]pyrimidine | 2.03 g | CC1=CC2=C(N=C(N=C2C2=CC=CC=C2)N2CCNCC2)S1 | C17H18N4S
reactant | 4-fluorophenacyl chloride | 1.25 g | FC1=CC=C(C(CCl)=O)C=C1 | C8H6ClFO
reactant | triethylamine | 0.73 g | C(C)N(CC)CC | C6H15N
reactant | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylethylketone | 6 ml | CC(=O)CC | C4H8O
product | 2-(4-(4-FLUOROPHENACYL)-PIPERAZINYL)-6-METHYL-4-PHENYL-THIENO[2,3-d]PYRIMIDINE | 2.68 g | FC1=CC=C(C(CN2CCN(CC2)C=2N=C(C3=C(N2)SC(=C3)C)C3=CC=CC=C3)=O)C=C1 | C25H23FN4OS
